US04407799
Synthesis of 2-(3,4-dimethoxyphenyl)-1,3-perhydrothiazine-4-one
A mixture of 16.6 g of 2,4-dimethoxybenzaldehyde, 10.6 g of 3-mercaptopropionic acid and 6 g of ammonium carbonate in 250 ml of benzene was refluxed for 3 hours in a reaction vessel provided with a Dean-Stark apparatus at 80° C. while removing the distilled water. The crystals which separated out after cooling the reaction mixture were collected by filtration and recrystallized from hot benzene to obtain the object, colourless minute acicular crystals melting at 166° to 167° C. in an amount of 22 g corresponding to a yield of 87%.

reactant | 2,4-dimethoxybenzaldehyde | 16.6 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 3-mercaptopropionic acid | 10.6 g | SCCC(=O)O | C3H6O2S
reactant | ammonium carbonate | 6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(3,4-dimethoxyphenyl)-1,3-perhydrothiazine-4-one | yield of 87% | COC1=C(C=C(C=C1)C2NC(=O)CCS2)OC | C12H15NO3S
